US04139701
A suspension of 56 g. (1.0 mol.) of potassium hydride and 118.7 g. (0.5 mol.) of 10 -aminodecanesulfonic acid in 170 ml. of water is stirred for 30 minutes at 25°, then 40 g. (0.52 mol.) of carbon disulfide and 80 ml. of ethanol are added and the reaction mixture is stirred at 25° for 12 hours. The mixture is refluxed gently for 2 hours and cooled. Methyl iodide (71 g., 0.3 mol.) and 130 ml. of ethanol are added to the mixture and it is stirred at 25° for 12 hours. The mixture is evaporated to remove the ethanol and the solid residue is collected by filtration to give methyl 10-sulfodecyldithiocarbamate.

reactant | potassium hydride | 1.0 mol | [H-].[K+]
reactant | 10 -aminodecanesulfonic acid | 0.5 mol | NCCCCCCCCCCS(=O)(=O)O | C10H23NO3S
reactant | carbon disulfide | 0.52 mol | C(=S)=S | CS2
reactant | Methyl iodide | 0.3 mol, 71 g | CI | CH3I
solvent | ethanol | C(C)O | C2H6O
solvent | water | O | H2O
product | methyl 10-sulfodecyldithiocarbamate | S(=O)(=O)(O)CCCCCCCCCCNC(SC)=S | C12H25NO3S3
